US04695575
A mixture of 7.9 parts of 3-[(4-fluorophenyl)methyl)-2-(4-piperidinylmethyl)-3H-imidazo[4,5-b]pyridine dihydrochloride, 5.3 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone was stirred and refluxed for 15 minutes using a water separator. 3.2 Parts of 2-ethenylpyidine were added at reflux temperature and stirring was continued for 3 hours at reflux using a water separator. Then there were added 3.2 parts of 2-ethenylpyridine and the whole was stirred and refluxed for 19.50 hours using a water separator. After cooling, the salts were filtered off and the filtrate was washed with water, dried, filtered and evaporated. The residue was converted into the ethanedioate salt in 2-propananone. The salt was filtered off and crystallized from a mixture of ethanol and 2-propanone, yielding 2.5 parts (17%) of 3-[(4-fluorophenyl)methyl]-2-[[1-[2-(2-pyridinyl)ethyl]-4-piperidinyl]methyl]-3H-imidazo[4,5-b]pyridine ethanedioate (1:3); mp. 143.1° C. (101).

reactant | 3-[(4-fluorophenyl)methyl)-2-(4-piperidinylmethyl)-3H-imidazo[4,5-b]pyridine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2)CC2CCNCC2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
reactant | 2-ethenylpyridine | C(=C)C1=NC=CC=C1 | C7H7N
reactant | water | O | H2O
product | 3-[(4-fluorophenyl)methyl]-2-[[1-[2-(2-pyridinyl)ethyl]-4-piperidinyl]methyl]-3H-imidazo[4,5-b]pyridine ethanedioate | 17% | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CCC2=NC=CC=C2 | InChI=1S/C26H28FN5.C2H2O4/c27-22-8-6-21(7-9-22)19-32-25(30-24-5-3-14-29-26(24)32)18-20-10-15-31(16-11-20)17-12-23-4-1-2-13-28-23;3-1(4)2(5)6/h1-9,13-14,20H,10-12,15-19H2;(H,3,4)(H,5,6)
